US08232284B2
Hydrogen peroxide water (4.37 ml, 42.8 mmol) was added to a tetrahydrofuran solution (50 ml) of 2-fluoro-3-methylpyridine-5-boronic acid (5.1 g, 32.9 mmol), and stirred overnight at room temperature. Water was added to the reaction solution, and extracted with ethyl acetate. The organic layer was washed with aqueous 5% sodium thiosulfate solution and saturated saline water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to obtain 6-fluoro-5-methylpyridin-3-ol (4.03 g, yield: 96%) as a pale yellow solid.

reactant | Hydrogen peroxide water | 42.8 mmol, 4.37 ml | O.OO
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | 2-fluoro-3-methylpyridine-5-boronic acid | 32.9 mmol, 5.1 g | FC1=NC=C(C=C1C)B(O)O | C6H7BFNO2
solvent | Water | O | H2O
product | 6-fluoro-5-methylpyridin-3-ol | 4.03 g, yield: 96% | FC1=C(C=C(C=N1)O)C | C6H6FNO
